US07910585B2
To a solution of 3-fluoro-2-methyl-6-nitro-benzoic acid in 200 mL of methanol, Cs2CO3 (4.34 g, 13.3 mmol) is added and stirred at the room temperature. The solution is concentrated under reduced pressure then the resulting yellow solids are suspended in 26 ml of DMF. Iodomethane (1.7 ml 26.6 mol) is added at 0° C. and stirred at the room temperature for 30 min. Water is added to the solution and extracted with ethyl acetate. The organic layer is washed with H2O followed by brine, dried over Na2SO4, filtered and evaporated in vacuo to afford 3-fluoro-2-methyl-6-nitro-benzoic acid methyl ester (5.70 g) as yellow oil in quantitative yield. 1H-NMR (400 MHz, δ, ppm) CDCl3: 2.30 (d, 3H), 3.99 (s, 3H), 7.22 (dd, 1H), 8.07 (dd, 1H).

reactant | 3-fluoro-2-methyl-6-nitro-benzoic acid | FC=1C(=C(C(=O)O)C(=CC1)[N+](=O)[O-])C | C8H6FNO4
reactant | Cs2CO3 | 13.3 mmol, 4.34 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | Iodomethane | 26.6 mol, 1.7 ml | IC | CH3I
reactant | Water | O | H2O
solvent | methanol | 200 mL | CO | CH4O
product | 3-fluoro-2-methyl-6-nitro-benzoic acid methyl ester | 5.70 g, quantitative yield | COC(C1=C(C(=CC=C1[N+](=O)[O-])F)C)=O | C9H8FNO4
